US08349851B2
Intermediate compound (R,S)-tert-butyl 4424(4-fluorophenyl)(hydroxy)methyl)-4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-7-yloxy)piperidine-1-carboxylate was obtained (105 mg) following the procedure described in Example 38 for the synthesis of (R,S)-(4-fluorophenyl)(4-(5-methyl-1H-pyrazol-3-ylamino)-7-(2-morpholinoethoxy)quinazolin-2-yl)methanol, substituting 4-(2-chloroethyl)morpholine in Example 38 with tert-butyl 4-(methylsulfonyloxy)piperidine-1-carboxylate. To the crude tert-butyl 4-(2-((4-fluorophenyl)(hydroxy)methyl)-4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-7-yloxy)piperidine-1-carboxylate (100 mg, 18.2 mmol) in a flask at 0° C. was added 4N HCl/dioxane (5 mL). After stirring for 20 h, the solvent was removed and the residue was shaken with DCM and aq sodium bicarbonate. The solvents were removed, and the remaining residue was extracted with MeOH/DCM. The extracts were concentrated and the residue was chromatographed on reverse phase HPLC to afford (4-fluorophenyl)(4-(5-methyl-1H-pyrazol-3-ylamino)-7-(piperidin-4-yloxy)quinazolin-2-yl)methanol as a white solid (32 mg, 21%). 1H NMR (300 MHz, DMSO-d6) δ ppm 1.54 (m, 2 H) 1.89 (s, 13 H) 1.89 (s., 3 H) 1.98 (m, 2 H) 2.68 (m, 2 H) 2.99 (m, 2 H) 4.66 (m, 4 H) 5.62 (s, 1 H) 5.76 (s, 1 H) 6.36 (b., 1 H) 7.08-7.18 (m, 4 H) 7.52 (m, 2 H) 8.45 (m., 1H), 10.29 (bs, 1H). LC-MS (ESI) m/z 449 (M+H)+.

reactant | 4-(2-chloroethyl)morpholine | ClCCN1CCOCC1 | C6H12ClNO
reactant | tert-butyl 4-(methylsulfonyloxy)piperidine-1-carboxylate | CS(=O)(=O)OC1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO5S
reactant | tert-butyl 4-(2-((4-fluorophenyl)(hydroxy)methyl)-4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-7-yloxy)piperidine-1-carboxylate | 18.2 mmol, 100 mg | FC1=CC=C(C=C1)C(C1=NC2=CC(=CC=C2C(=N1)NC1=NNC(=C1)C)OC1CCN(CC1)C(=O)OC(C)(C)C)O | C29H33FN6O4
reactant | HCl dioxane | 4N, 5 mL | Cl.O1CCOCC1
product | (4-fluorophenyl)(4-(5-methyl-1H-pyrazol-3-ylamino)-7-(piperidin-4-yloxy)quinazolin-2-yl)methanol | 32 mg, 21% | FC1=CC=C(C=C1)C(O)C1=NC2=CC(=CC=C2C(=N1)NC1=NNC(=C1)C)OC1CCNCC1 | C24H25FN6O2
